US05153210
3-Chloro-α-[[[2-[4-((4,5-dihydro-1H-2-imidazolyl)methyloxy)phenyl]-1-methylethyl]amino]methyl]benzenemethanol, dihydrochloride.
1,2-Diaminoethane (0.44 g) in dry toluene (50 ml) was added under nitrogen to a stirred 25% solution of tri-isobutylaluminium (6.5 mmole) in hexane at <10° C. The solution was allowed to attain ambient temperature and a solution of methyl 4-[2-[(3-chloro-β-hydroxyphenethyl) amino]propyl]phenoxyacetate (generated from 2 g of the hydrobromide salt) in toluene (20 ml) added and the mixture heated under reflux for 7 h. The reaction mixture was cooled and decomposed below -5° C. with a mixture of water (2 ml), dichloromethane (6 ml) and methanol (6 ml). This mixture was boiled for 0.5 h, dried (magnesium sulphate) filtered and evaporated. The resulting oil was taken up in ethyl acetate, dried, filtered and evaporated. The resulting oil was treated with ethereal hydrogen chloride 3-chloro-α-[[[2-[4-((4,5-dihydro-1H-2-imidazolyl)methyloxy)phenyl]-1-methylethyl]amino]methyl] benzenemethanol, dihydrochloride m.p. 252°-256° C. (methanol-ether) as a >95:5 mixture of diastereoisomers.

reactant | 1,2-Diaminoethane | 0.44 g | NCCN | C2H8N2
reactant | tri-isobutylaluminium | 6.5 mmole | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | methyl 4-[2-[(3-chloro-β-hydroxyphenethyl) amino]propyl]phenoxyacetate | ClC=1C=C(C(CNC(CC2=CC=C(OCC(=O)OC)C=C2)C)O)C=CC1 | C20H24ClNO4
reactant | water | 2 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 6 ml | CO | CH4O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-Chloro-α-[[[2-[4-((4,5-dihydro-1H-2-imidazolyl)methyloxy)phenyl]-1-methylethyl]amino]methyl]benzenemethanol, dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C(O)CNC(CC1=CC=C(C=C1)OCC=1NCCN1)C | InChI=1S/C21H26ClN3O2.2ClH/c1-15(25-13-20(26)17-3-2-4-18(22)12-17)11-16-5-7-19(8-6-16)27-14-21-23-9-10-24-21;;/h2-8,12,15,20,25-26H,9-11,13-14H2,1H3,(H,23,24);2*1H
